US07018988B2
(2S,4EZ)-4-(ethoxyimino)-N-(9-ethyl-9H-carbazol-3-yl)-1-(methoxyacetyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid, methoxyacetyl chloride, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 88% purity by LC/MS. MS(ESI+): m/z=437.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC)C(=O)O | C12H20N2O5
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-4-(ethoxyimino)-N-(9-ethyl-9H-carbazol-3-yl)-1-(methoxyacetyl)-2-pyrrolidinecarboxamide | C(C)ON=C1C[C@H](N(C1)C(COC)=O)C(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C24H28N4O4
